US07745475B2
Ethyl 4-(3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate
A suspension of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (4.5 g, 0.011 mol), 4-ethoxycarbonylphenylboronic acid (3.24 g, 0.016-mol), copper (II) acetate (3.06 g, 0.016 mol), triethylamine (7.74 mL, 0.055 mol) and freshly activated 4 Å molecular sieves (13 g) in DCM (180 mL) was stirred at ambient temperature and under ambient atmosphere for 3 days. The reaction mixture was filtered through celite, washed with DCM (2×50 mL). The DCM was removed in vacuo and the residual oil partitioned between ethyl acetate (100 mL) and water (100 mL), filtered and the ethyl acetate layer washed with brine (50 mL), dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (3.78 g).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.011 mol, 4.5 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | 4-ethoxycarbonylphenylboronic acid | 0.016-mol, 3.24 g | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | triethylamine | 0.055 mol, 7.74 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 180 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.016 mol, 3.06 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Ethyl 4-(3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate | 3.78 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)OCC)C=C2)C=C(C1)C(=O)NC1=NN(C=C1)C)C | C29H39N3O6Si
